US06342591B1
Synthesis of Benzyl(chloromethyl)dimethylsilane
In a 2 L 3-necked flask equipped with a nitrogen inlet, a 500 ml dropping funnel and a thermometer, was placed 500 ml of tetrahydrofuran. Chloro(chloromethyl)-dimethylsilane (100 ml, 0.744 mol) was added by syringe and the colorless solution cooled to 0° C. in an ice/acetone bath. Then benzylmagnesium chloride (2.0 M solution, 400 ml, 0.8 mol) was transferred to the dropping funnel by syringe and added dropwise over 2 hours. A slightly exothermic reaction was observed and the temperature was maintained below 10° C. After addition of the benzylmagnesium chloride was complete, the ice bath was allowed to warm up to room temperature without heating, and the reaction mixture was stirred overnight. Thereafter hexane (300 ml) was added and the reaction mixture was worked up by dropwise addition of saturated aqueous ammonium chloride (300 ml) and transferred to a 2 L separatory funnel with additional hexane (300 ml). After partitioning, the organic layer was washed with saturated aqueous ammonium chloride (200 ml) and saturated aqueous sodium chloride (200 ml). The combined aqueous layers were backwashed with hexane (2×500 ml). The combined organic layers were dried over magnesium sulfate, evaporated on a rotary evaporator, and finally evaporated with an oil pump to give a colorless oil 162.0 g (109.5% yield). A quantitative yield was assumed with a purity of the crude product as 91.3%.

reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
reactant | Chloro(chloromethyl)-dimethylsilane | 0.744 mol, 100 ml | Cl[Si](C)(C)CCl | C3H8Cl2Si
reactant | benzylmagnesium chloride | 0.8 mol, 2.0 M, 400 ml | C(C1=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | 300 ml | [Cl-].[NH4+]
solvent | hexane | 300 ml | CCCCCC | C6H14
solvent | hexane | 300 ml | CCCCCC | C6H14
product | Benzyl(chloromethyl)dimethylsilane | 162.0 g, 109.5% yield | C(C1=CC=CC=C1)[Si](C)(C)CCl | C10H15ClSi
